US08048909B2
2-Chloro-5-phenyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}-1H-pyrrole-3-carbaldehyde
5-Phenyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}-1H-pyrrole-3-carbaldehyde (300 mg) was dissolved in N,N-dimethylformamide (6 mL), N-chlorosuccinimide (116 mg) was added at room temperature, and the mixture was stirred for 24 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with 3% potassium hydrogensulfate solution and saturated brine, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (eluent: hexane-ethyl acetate=19:1→4:1) to give the title compound as colorless crystals (yield 200 mg, 61%).

reactant | 5-Phenyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}-1H-pyrrole-3-carbaldehyde | 300 mg | C1(=CC=CC=C1)C1=CC(=CN1S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F)C=O | C18H12F3NO3S
reactant | N-chlorosuccinimide | 116 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 2-Chloro-5-phenyl-1-{[4-(trifluoromethyl)phenyl]sulfonyl}-1H-pyrrole-3-carbaldehyde | yield 200 mg, 61% | ClC=1N(C(=CC1C=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C18H11ClF3NO3S
